US09029399B2
Preparation of 1-(4-cyclopropylpyridin-3-yl)-3-(3-(trifluoromethyl) phenyl)imidazolidin-2-one (5A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-1d: 150 mg, 0.738 mmol) was reacted with 1-bromo-3-(trifluoromethyl)benzene (831 mg, 3.69 mmol), 1,4-dioxane (10 mL), copper iodide (14.0 mg, 0.073 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (8.4 mg, 0.073 mmol) and potassium phosphate (469.9 mg, 2.21 mmol) to afford the crude product. Purification by column chromatography on silica gel (1.5% methanol in CHCl3) afforded 205 mg of the product (80% yield).

reactant | 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 0.738 mmol, 150 mg | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 1-bromo-3-(trifluoromethyl)benzene | 3.69 mmol, 831 mg | BrC1=CC(=CC=C1)C(F)(F)F | C7H4BrF3
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.073 mmol, 8.4 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 2.21 mmol, 469.9 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.073 mmol, 14.0 mg | [Cu](I)I
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 1-(4-cyclopropylpyridin-3-yl)-3-(3-(trifluoromethyl) phenyl)imidazolidin-2-one | 205 mg, 80% yield | C1(CC1)C1=C(C=NC=C1)N1C(N(CC1)C1=CC(=CC=C1)C(F)(F)F)=O | C18H16F3N3O
